US07314888B1
In 20 ml of ethanol is dissolved 10.00 g of ethyl 3-[5-(2,4-diisobutoxybenzoyl)-2-isobutoxyphenyl]-propanoate, to which are added 5.59 g of hydroxylamine hydrochloride and 7 ml of pyridine. The mixture is heated under reflux for 4.5 hours with stirring. After cooling the mixture to ambient temperature, chloroform and water are added, and the organic layer is separated. The organic layer thus obtained is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, and the solvent is distilled off under reduced pressure. The residue thus obtained is purified by silica gel column chromatography (eluent; n-hexane:ethyl acetate=5:1) to obtain 10.20 g of ethyl 3-{5-[(2,4-diisobutoxyphenyl)(hydroxyimino)-methyl]-2-isobutoxyphenyl}propanoate as a light brown oily product.

reactant | ethyl 3-[5-(2,4-diisobutoxybenzoyl)-2-isobutoxyphenyl]-propanoate | 10.00 g | C(C(C)C)OC1=C(C(=O)C=2C=CC(=C(C2)CCC(=O)OCC)OCC(C)C)C=CC(=C1)OCC(C)C | C30H42O6
reactant | hydroxylamine hydrochloride | 5.59 g | Cl.NO
reactant | pyridine | 7 ml | N1=CC=CC=C1 | C5H5N
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | ethyl 3-{5-[(2,4-diisobutoxyphenyl)(hydroxyimino)-methyl]-2-isobutoxyphenyl}propanoate | 10.20 g | C(C(C)C)OC1=C(C=CC(=C1)OCC(C)C)C(C=1C=CC(=C(C1)CCC(=O)OCC)OCC(C)C)=NO | C30H43NO6
